* NGSPICE file created from DAC_CORE_5bit.ext - technology: sky130A

.subckt DAC_CORE_5bit DAC_REF B[0] B[1] B[4] I_DAC B[2] B[3] VDD
X0 a_n1864_2898# B[2] I_DAC w_n1948_2482# sky130_fd_pr__pfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
X1 VDD DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=99.75 ps=722 w=3.5 l=5
X2 a_n1864_3918# DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=1.05 ps=7.6 w=3.5 l=5
X3 a_n1494_2558# DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=1.05 ps=7.6 w=3.5 l=5
X4 a_n1864_3918# B[4] I_DAC w_n1948_2482# sky130_fd_pr__pfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
X5 a_n1864_3918# DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=1.05 ps=7.6 w=3.5 l=5
X6 VDD DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=0 ps=0 w=3.5 l=5
X7 VDD DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=0 ps=0 w=3.5 l=5
X8 I_DAC B[4] a_n1864_3918# w_n1948_2482# sky130_fd_pr__pfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
X9 VDD DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=0 ps=0 w=3.5 l=5
X10 VDD DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=0 ps=0 w=3.5 l=5
X11 I_DAC B[1] a_n1494_2558# w_n1948_2482# sky130_fd_pr__pfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
X12 a_n1864_3238# DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=1.05 ps=7.6 w=3.5 l=5
X13 I_DAC B[4] a_n1864_3918# w_n1948_2482# sky130_fd_pr__pfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
X14 a_n1864_3918# B[4] I_DAC w_n1948_2482# sky130_fd_pr__pfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
X15 a_n1864_3918# DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=1.05 ps=7.6 w=3.5 l=5
X16 VDD DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=0 ps=0 w=3.5 l=5
X17 a_n934_2558# B[0] I_DAC w_n1948_2482# sky130_fd_pr__pfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
X18 VDD DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=0 ps=0 w=3.5 l=5
X19 I_DAC B[3] a_n1864_3238# w_n1948_2482# sky130_fd_pr__pfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
X20 VDD DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=0 ps=0 w=3.5 l=5
X21 a_n1494_2558# DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=1.05 ps=7.6 w=3.5 l=5
X22 VDD DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=0 ps=0 w=3.5 l=5
X23 VDD DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=0 ps=0 w=3.5 l=5
X24 a_n1864_3918# DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=1.05 ps=7.6 w=3.5 l=5
X25 a_n1864_2898# DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=1.05 ps=7.6 w=3.5 l=5
X26 a_n1864_3918# DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=1.05 ps=7.6 w=3.5 l=5
X27 a_n1864_3918# B[4] I_DAC w_n1948_2482# sky130_fd_pr__pfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
X28 a_n1864_3918# DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=1.05 ps=7.6 w=3.5 l=5
X29 a_n1864_3918# DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=1.05 ps=7.6 w=3.5 l=5
X30 a_n1864_3238# B[3] I_DAC w_n1948_2482# sky130_fd_pr__pfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
X31 VDD DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=0 ps=0 w=3.5 l=5
X32 a_n1864_3918# DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=1.05 ps=7.6 w=3.5 l=5
X33 VDD DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=0 ps=0 w=3.5 l=5
X34 I_DAC B[3] a_n1864_3238# w_n1948_2482# sky130_fd_pr__pfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
X35 VDD DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=0 ps=0 w=3.5 l=5
X36 a_n1864_3918# DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=1.05 ps=7.6 w=3.5 l=5
X37 VDD DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=0 ps=0 w=3.5 l=5
X38 a_n1864_3238# DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=1.05 ps=7.6 w=3.5 l=5
X39 VDD DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=0 ps=0 w=3.5 l=5
X40 a_n1864_2898# DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=1.05 ps=7.6 w=3.5 l=5
X41 I_DAC B[4] a_n1864_3918# w_n1948_2482# sky130_fd_pr__pfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
X42 VDD DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=0 ps=0 w=3.5 l=5
X43 I_DAC B[3] a_n1864_3238# w_n1948_2482# sky130_fd_pr__pfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
X44 VDD DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=0 ps=0 w=3.5 l=5
X45 a_n1864_2898# DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=1.05 ps=7.6 w=3.5 l=5
X46 a_n1864_3918# B[4] I_DAC w_n1948_2482# sky130_fd_pr__pfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
X47 a_n1864_3238# B[3] I_DAC w_n1948_2482# sky130_fd_pr__pfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
X48 a_n1864_3918# DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=1.05 ps=7.6 w=3.5 l=5
X49 VDD DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=0 ps=0 w=3.5 l=5
X50 VDD DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=0 ps=0 w=3.5 l=5
X51 VDD DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=0 ps=0 w=3.5 l=5
X52 I_DAC B[4] a_n1864_3918# w_n1948_2482# sky130_fd_pr__pfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
X53 a_n1864_3238# B[3] I_DAC w_n1948_2482# sky130_fd_pr__pfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
X54 VDD DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=0 ps=0 w=3.5 l=5
X55 I_DAC B[3] a_n1864_3238# w_n1948_2482# sky130_fd_pr__pfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
X56 VDD DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=0 ps=0 w=3.5 l=5
X57 a_n1864_3918# DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=1.05 ps=7.6 w=3.5 l=5
X58 a_n1864_3918# B[4] I_DAC w_n1948_2482# sky130_fd_pr__pfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
X59 a_n1864_3238# B[3] I_DAC w_n1948_2482# sky130_fd_pr__pfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
X60 a_n1864_3238# DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=1.05 ps=7.6 w=3.5 l=5
X61 VDD DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=0 ps=0 w=3.5 l=5
X62 I_DAC B[4] a_n1864_3918# w_n1948_2482# sky130_fd_pr__pfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
X63 I_DAC B[2] a_n1864_2898# w_n1948_2482# sky130_fd_pr__pfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
X64 VDD DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=0 ps=0 w=3.5 l=5
X65 VDD DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=0 ps=0 w=3.5 l=5
X66 VDD DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=0 ps=0 w=3.5 l=5
X67 VDD DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=0 ps=0 w=3.5 l=5
X68 a_n934_2558# DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=1.05 ps=7.6 w=3.5 l=5
X69 a_n1864_3238# DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=1.05 ps=7.6 w=3.5 l=5
X70 VDD DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=0 ps=0 w=3.5 l=5
X71 I_DAC B[4] a_n1864_3918# w_n1948_2482# sky130_fd_pr__pfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
X72 I_DAC B[4] a_n1864_3918# w_n1948_2482# sky130_fd_pr__pfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
X73 VDD DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=0 ps=0 w=3.5 l=5
X74 a_n1864_3918# DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=1.05 ps=7.6 w=3.5 l=5
X75 VDD DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=0 ps=0 w=3.5 l=5
X76 a_n1864_3918# B[4] I_DAC w_n1948_2482# sky130_fd_pr__pfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
X77 a_n1864_2898# B[2] I_DAC w_n1948_2482# sky130_fd_pr__pfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
X78 a_n1864_3918# DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=1.05 ps=7.6 w=3.5 l=5
X79 a_n1864_3918# DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=1.05 ps=7.6 w=3.5 l=5
X80 I_DAC B[1] I_DAC w_n1948_2482# sky130_fd_pr__pfet_01v8 ad=0.126 pd=1.44 as=4.158 ps=47.52 w=0.42 l=0.15
X81 VDD DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=0 ps=0 w=3.5 l=5
X82 a_n1864_3918# DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=1.05 ps=7.6 w=3.5 l=5
X83 a_n1864_3918# B[4] I_DAC w_n1948_2482# sky130_fd_pr__pfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
X84 a_n1864_3238# DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=1.05 ps=7.6 w=3.5 l=5
X85 VDD DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=0 ps=0 w=3.5 l=5
X86 a_n1864_3918# B[4] I_DAC w_n1948_2482# sky130_fd_pr__pfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
X87 a_n1864_3238# DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=1.05 ps=7.6 w=3.5 l=5
X88 I_DAC B[4] a_n1864_3918# w_n1948_2482# sky130_fd_pr__pfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
X89 I_DAC B[2] a_n1864_2898# w_n1948_2482# sky130_fd_pr__pfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
X90 a_n1864_3238# DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=1.05 ps=7.6 w=3.5 l=5
X91 a_n1494_2558# B[1] I_DAC w_n1948_2482# sky130_fd_pr__pfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
X92 a_n1864_3238# DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=1.05 ps=7.6 w=3.5 l=5
X93 a_n1864_2898# DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=1.05 ps=7.6 w=3.5 l=5
X94 a_n1864_3918# DAC_REF VDD w_n65_n76# sky130_fd_pr__pfet_01v8 ad=1.05 pd=7.6 as=1.05 ps=7.6 w=3.5 l=5
C0 VDD a_n2024_2042# 0.61936f
C1 w_n65_n76# DAC_REF 38.3052f
C2 w_n65_n76# VDD 14.8364f
C3 w_n1948_2482# B[3] 1.04456f
C4 w_n65_n76# a_n1864_3918# 1.93543f
C5 B[3] B[2] 0.13721f
C6 w_n1948_2482# a_n1494_2558# 0.07399f
C7 w_n1948_2482# B[4] 2.06516f
C8 VDD B[3] 0.23279f
C9 DAC_REF a_n1494_2558# 3.70795f
C10 VDD a_n1494_2558# 2.10532f
C11 VDD B[4] 0.6983f
C12 w_n1948_2482# B[0] 0.12332f
C13 w_n1948_2482# a_n934_2558# 0.02211f
C14 B[0] B[2] 0.01859f
C15 DAC_REF a_n934_2558# 1.50649f
C16 VDD B[0] 0.75127f
C17 VDD a_n934_2558# 1.72216f
C18 w_n1948_2482# I_DAC 1.50571f
C19 a_n1864_3918# B[3] 0.29849f
C20 I_DAC B[2] 0.44587f
C21 DAC_REF I_DAC 0.01718f
C22 VDD I_DAC 1.3383f
C23 w_n1948_2482# B[1] 0.38978f
C24 a_n1494_2558# a_n1864_3918# 0.60287f
C25 B[4] a_n1864_3918# 4.16313f
C26 B[2] B[1] 0.14666f
C27 w_n1948_2482# a_n1864_2898# 0.15209f
C28 VDD B[1] 0.11265f
C29 a_n1864_2898# B[2] 0.62243f
C30 DAC_REF a_n1864_2898# 6.52816f
C31 VDD a_n1864_2898# 4.74911f
C32 a_n1864_3918# a_n934_2558# 0.60144f
C33 w_n1948_2482# a_n1864_3238# 0.35951f
C34 a_n1864_3918# I_DAC 2.4225f
C35 a_n1864_3238# B[2] 0.29852f
C36 a_n1864_3238# DAC_REF 7.62442f
C37 w_n65_n76# a_n1494_2558# 0.27899f
C38 a_n1864_3238# VDD 6.64425f
C39 a_n1864_2898# a_n1864_3918# 1.03115f
C40 w_n65_n76# a_n934_2558# 0.16051f
C41 a_n1864_3238# a_n1864_3918# 1.42402f
C42 VDD a_n140_n151# 2.44841f
C43 B[4] B[3] 0.12324f
C44 w_n65_n76# a_n1864_2898# 0.52804f
C45 a_n1494_2558# B[0] 0.25655f
C46 a_n1494_2558# a_n934_2558# 0.90037f
C47 B[3] I_DAC 0.89277f
C48 w_n65_n76# a_n1864_3238# 1.07753f
C49 a_n1494_2558# I_DAC 0.37274f
C50 B[4] I_DAC 1.7506f
C51 B[0] a_n934_2558# 0.18148f
C52 a_n1494_2558# B[1] 0.17934f
C53 B[0] I_DAC 0.55504f
C54 a_n934_2558# I_DAC 0.18075f
C55 a_n1494_2558# a_n1864_2898# 0.87879f
C56 B[0] B[1] 0.05195f
C57 a_n1864_3238# B[3] 1.80681f
C58 a_n1864_2898# B[0] 0.11452f
C59 a_n1864_2898# a_n934_2558# 0.41595f
C60 a_n1864_3238# a_n1494_2558# 1.94261f
C61 I_DAC B[1] 0.42682f
C62 w_n1948_2482# B[2] 0.52379f
C63 a_n1864_2898# I_DAC 0.48898f
C64 w_n1948_2482# VDD 0.99502f
C65 VDD B[2] 0.12987f
C66 a_n1864_3238# a_n934_2558# 1.13585f
C67 VDD DAC_REF 39.9763f
C68 a_n1864_2898# B[1] 0.2104f
C69 a_n1864_3238# I_DAC 1.15902f
C70 w_n1948_2482# a_n1864_3918# 0.76278f
C71 a_n1864_3238# a_n1864_2898# 2.07851f
C72 DAC_REF a_n1864_3918# 13.3243f
C73 VDD a_n1864_3918# 13.8016f
C74 VDD VSUBS 19.5671f
C75 DAC_REF VSUBS 5.83423f
C76 B[0] VSUBS 0.87958f
C77 B[1] VSUBS 0.2115f
C78 B[2] VSUBS 0.13149f
C79 B[3] VSUBS 0.29098f
C80 I_DAC VSUBS 1.04519f
C81 B[4] VSUBS 0.68408f
C82 a_n934_2558# VSUBS 0.36581f ; **FLOATING
C83 a_n1494_2558# VSUBS 0.43671f ; **FLOATING
C84 a_n1864_2898# VSUBS 0.54127f ; **FLOATING
C85 a_n1864_3238# VSUBS 0.17979f ; **FLOATING
C86 a_n1864_3918# VSUBS 1.06761f ; **FLOATING
C87 w_n1948_2482# VSUBS 9.5674f ; **FLOATING
C88 w_n65_n76# VSUBS 0.21124p ; **FLOATING
.ends
